US07153548B2
(3) Synthesis of intermediate 2,3-dihexyloxy-4-(4-acryloyloxybutyloxy)cinnamic acid
Into a three-neck flask, 2,3,4-tri(4-hydroxy-butyloxy)cinnamic acid (6.2 g), acrylic acid chloride (1.3 ml), N,N-dimethylaniline (2.1 g) and 100 mL of tetrahydrofuran were added and stirred at 60° C. for 5 hours. After cooling, the reaction solution was extracted with ethyl and washed with water. The extract was concentrated and then purified by column chromatography to obtain the titled compound (6.0 g). Yield: 86%.

reactant | 2,3,4-tri(4-hydroxy-butyloxy)cinnamic acid | 6.2 g | OCCCCOC1=C(C=CC(=O)O)C=CC(=C1OCCCCO)OCCCCO | C21H32O8
reactant | acrylic acid chloride | 1.3 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | N,N-dimethylaniline | 2.1 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2,3-dihexyloxy-4-(4-acryloyloxybutyloxy)cinnamic acid | 6.0 g, Yield: 86% | C(CCCCC)OC1=C(C=CC(=O)O)C=CC(=C1OCCCCCC)OCCCCOC(C=C)=O | C28H42O7
